US07671043B2
7B: {4-[3-(4-Isobutylphenyl)-1,2,4-oxadiazol-5-yl]phenyl}methanol
Tetrabutylammonium fluoride (1.0 M solution in THF, 10 mL) was added to a solution of N′-{[4-(hydroxymethyl)benzoyl]oxy}-4-isobutylbenzenecarboximidamide (3.07 g, 9.42 mmol) and THF (50 mL) and stirred at room temperature for 20 hours. The reaction mixture was diluted with ethyl acetate, washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo to give the title compound (1.33 g, 46% yield) as a crude solid.

reactant | Tetrabutylammonium fluoride | 1.0 M, 10 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N′-{[4-(hydroxymethyl)benzoyl]oxy}-4-isobutylbenzenecarboximidamide | 9.42 mmol, 3.07 g | OCC1=CC=C(C(=O)ON=C(N)C2=CC=C(C=C2)CC(C)C)C=C1 | C19H22N2O3
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {4-[3-(4-Isobutylphenyl)-1,2,4-oxadiazol-5-yl]phenyl}methanol | 1.33 g, 46% yield | C(C(C)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)CO | C19H20N2O2
